US05349068
Following Procedure 1 and using equivalent amounts of acetaldehyde oxime and 3-[3,5-dimethyl-4-(9-ethinylnonyloxy)phenyl]-5-trifluoromethyl-1,2,4-oxadiazole, there can be obtained 5-{9-[2,6-dimethyl-4-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)phenoxy]nonyl}-3-methylisoxazole [I; R1 =CH3, Y=(CH2)9, R2 and R3 =2,6-(CH3)2, R4 =CF3 ].

reactant | acetaldehyde oxime | C(C)=NO | C2H5NO
reactant | 3-[3,5-dimethyl-4-(9-ethinylnonyloxy)phenyl]-5-trifluoromethyl-1,2,4-oxadiazole | CC=1C=C(C=C(C1OCCCCCCCCCC#C)C)C1=NOC(=N1)C(F)(F)F | C22H27F3N2O2
product | 5-{9-[2,6-dimethyl-4-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)phenoxy]nonyl}-3-methylisoxazole | CC1=C(OCCCCCCCCCC2=CC(=NO2)C)C(=CC(=C1)C1=NOC(=N1)C(F)(F)F)C | C24H30F3N3O3
